US09120777B2
H) 2-Fluoro-4-iodo-3-methylpyridine
n-Butyl lithium (1.6M hexane solution, 53.8 mL) was added to a solution of diisopropylamine (8.71 g) in THF (200 mL) at −10 C. After being stirred at the same temperature under nitrogen atmosphere for 1 hour, a solution of 2-fluoro-3-iodopyridine (18.3 g) in THF (70 mL) was added to the reaction mixture at −78 C. The mixture was stirred at the same temperature under nitrogen atmosphere for 1 hour. A solution of iodomethane (12.8 g) in THF (30 mL) was added to the reaction mixture at −78 C. The mixture was stirred at the same temperature under nitrogen atmosphere for 2 hours. The mixture was quenched with aqueous saturated ammonium chloride solution at 0 C and extracted with ethyl acetate. The organic layer was separated, washed with water and brine, dried over anhydrous magnesium sulfate and concentrated in vacuo. The residue was passed through NH-silica and concentrated in vacuo. The residue was purified by a silica gel column chromatography (hexane/ethyl acetate) to give the title compound (17.2 g).

reactant | n-Butyl lithium | 1.6M, 53.8 mL | C(CCC)[Li]
reactant | diisopropylamine | 8.71 g | C(C)(C)NC(C)C | C6H15N
reactant | 2-fluoro-3-iodopyridine | 18.3 g | FC1=NC=CC=C1I | C5H3FIN
reactant | iodomethane | 12.8 g | IC | CH3I
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 70 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 2-Fluoro-4-iodo-3-methylpyridine | 17.2 g | FC1=NC=CC(=C1C)I | C6H5FIN
